US05821387
A mixture of 6-bromomethylchrysene (4.82 g, 15 mmol), 2-amino-2-methylpropane-1,3diol (3.15 g, 30 mmol), and triethylamine (1.67 g, 16.5 mmol) was refluxed in tetrahydrofuran (75 mL) under nitrogen. After one hour all the solids had dissolved and NMR analysis indicated that the 6-bromomethylchrysene had been consumed. Water (150 mL) was added and the mixture was cooled to ambient temperature. The solids were collected by filtration, washed with water (3×30 mL), and dried in vacuo to give 3.67 g (71% yield) of 2-(6-chrysenylmethylamino)-2-methylpropane-1,3diol. 1H NMR (CDCl3) 1.19 (s, 3 H), 1.81 (br s, 1 H), 3.53 (d, J=5.0 Hz, 2 H), 4.39 (s, 2 H), 4.58 (t, J=5.0 Hz, 2 H), 7.78 (m, 4 H), 8.11 (m, 2 H), 8.45 (d, J=8.4 Hz, 1 H), 8.9 (m, 4 H).

reactant | 6-bromomethylchrysene | 15 mmol, 4.82 g | BrCC=1C=C2C=3C=CC=CC3C=CC2=C2C=CC=CC12 | C19H13Br
reactant | 2-amino-2-methylpropane-1,3diol | 30 mmol, 3.15 g | NC(CO)(CO)C | C4H11NO2
reactant | triethylamine | 16.5 mmol, 1.67 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 2-(6-chrysenylmethylamino)-2-methylpropane-1,3diol | 3.67 g, 71% yield | C1=CC=CC=2C3=CC(=C4C=CC=CC4=C3C=CC12)CNC(CO)(CO)C | C23H23NO2
